US08455477B2
3-iodo-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine (860. mg, 2.43 mmol), tetrakis(triphenylphosphine)palladium(0) (281 mg, 0.243 mmol), trimethylsilylacetylene (1.01 ml, 7.29 mmol) and copper (I) iodide (277 mg, 1.46 mmol) were combined in a round bottom flask. DMF (25 mL) and triethylamine (0.677 mL, 4.86 mmol) were added, then the flask was wrapped with aluminum foil and sparged with nitrogen for 5 minutes. The reaction was stirred at ambient temperature for 30 mins, then diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate. The organic layer was separated and the aqueous layer was back extracted two times with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated. The liquid was purified by column chromatography on silica gel (methanol/ethyl acetate gradient) to give 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)-3-[(trimethylsilyl)ethynyl]pyrazolo[1,5-a]pyridine LRMS (ESI) calculated for C17H21N4OSi [M+H]+, 325.1; found 325.1.

reactant | 3-iodo-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | 2.43 mmol | IC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OC | C12H11IN4O
reactant | trimethylsilylacetylene | 7.29 mmol, 1.01 ml | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 4.86 mmol, 0.677 mL | C(C)N(CC)CC | C6H15N
reactant | aluminum | [Al] | Al
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.243 mmol, 281 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper (I) iodide | 1.46 mmol, 277 mg | [Cu]I
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)-3-[(trimethylsilyl)ethynyl]pyrazolo[1,5-a]pyridine | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C#C[Si](C)(C)C | C17H20N4OSi
